*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/6.80e-03[uF]/16[V]
* Murata P/N :GRM15XR71C682KA86
* Property : C = 6.80e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM15XR71C682KA86 Port1 Port2
C01 Port1 N01 6.70e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 2.13e-10
R03 N02 N03 9.17e-02
C04 N03 N04 6.87e-07
R04 N03 N04 2.97e+03
C05 N04 N05 9.93e-07
R05 N04 N05 1.83e+02
C06 N05 N06 9.48e-07
R06 N05 N06 1.87e+01
C07 N06 N07 1.03e-06
R07 N06 N07 2.97e+00
C08 N07 N08 9.31e-07
R08 N07 N08 6.25e-01
C09 N08 N09 8.16e-07
R09 N08 N09 1.37e-01
C10 N09 N10 3.30e-07
R10 N09 N10 7.52e-02
L11 N10 N11 2.01e-11
R11 N10 N11 4.61e-01
L12 N11 N12 3.71e-11
R12 N11 N12 1.74e-01
C13 N12 N13 3.01e-09
L13 N12 N13 2.85e-11
R13 N12 N13 7.60e-02
C14 N13 Port2 9.35e-12
L14 N13 Port2 3.87e-11
R14 N13 Port2 4.41e+00
.ENDS GRM15XR71C682KA86
